US06949648B2
A solution of 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (0.8 g, 2.71 mmol) in 40% methylamine methanol (21 mL, 0.27 mol) solution was heated and stirred at 100° C. for 4 hours in a sealed stainless tube. After the solution was cooled to room temperature, the reaction solvents were evaporated under reduced pressure. Purification of the residue thus obtained by silica gel column chromatography (chloroform:methanol=98:2) gave an oil of N-methyl-N-[3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-yl]amine. To a solution of the oil in ethanol (10 mL), was added a saturated hydrochloric acid/ethanol solution (10 mL), and the solution was concentrated under reduced pressure. The residue thus obtained was recrystallized from methanol/ethyl acetate to give the title compound (0.63 g, 64% yield).

reactant | 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 2.71 mmol, 0.8 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C16H11ClN4
reactant | methylamine methanol | 0.27 mol, 21 mL | CO.CN
product | N-methyl-N-[3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-yl]amine | CNC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C17H15N5
